US07674797B2
To the solution of thionyl chloride (1.63 ml, 22.4 mmol) in CCl4 (30 ml) was added the solution of (1,4-dibenzylpiperazin-2-yl)-methanol (2.74 g, 9.25 mmol) in CCl4 dropwise in 10 minutes. The produced suspension was stirred for 2 hours at 77° C. After cooled to room temperature, 20 ml of ice water was added and the aqueous layer was separated from the organic solvent. The PH of aqueous layer was adjusted to 12 with 4N NaOH aq., and extracted with CHCl3 three times. The combined organic layer was dried over MgSO4, and concentrated to give brownish oil which was purified by column chromatography on silica gel (CH2Cl2/MeOH=30/1) to give 1,4-dibenzyl-2-chloromethyl-piperazine in crude form (3.08 g, 95%, ca. 90% purity from HPLC analysis). The compound was used for next reaction without further purification: HPLC-MS (ESI): Calcd for C19H23ClN2[M+H]+ 315, found: 315.

reactant | thionyl chloride | 22.4 mmol, 1.63 ml | S(=O)(Cl)Cl | Cl2OS
reactant | (1,4-dibenzylpiperazin-2-yl)-methanol | 9.25 mmol, 2.74 g | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CO | C19H24N2O
solvent | CCl4 | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1,4-dibenzyl-2-chloromethyl-piperazine | C(C1=CC=CC=C1)N1C(CN(CC1)CC1=CC=CC=C1)CCl | C19H23ClN2
